US07696223B2
b) 5-Bromomethyl-2-phenyl-thiazole-4-carboxylic acid ethyl ester
A mixture of 5-methyl-2-phenyl-thiazole-4-carboxylic acid ethyl ester (7.76 g, 0.03 mol), N-bromosuccinimide (5.87 g, 0.03 mol) and benzoyl peroxide (761 mg, 3.30 mmol) in carbon tetrachloride (130 mL) was refluxed for 16 h before it was cooled to room temperature and partitioned between dichloromethane and water. The organic layer was washed with saturated aqueous sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound as a yellow oil (10.66 g); MS: (+) m/z 325.93, 328.00 (M+1, 79Br/81Br).

reactant | 5-methyl-2-phenyl-thiazole-4-carboxylic acid ethyl ester | 0.03 mol, 7.76 g | C(C)OC(=O)C=1N=C(SC1C)C1=CC=CC=C1 | C13H13NO2S
reactant | N-bromosuccinimide | 0.03 mol, 5.87 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.30 mmol, 761 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 130 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromomethyl-2-phenyl-thiazole-4-carboxylic acid ethyl ester | 10.66 g | C(C)OC(=O)C=1N=C(SC1CBr)C1=CC=CC=C1 | C13H12BrNO2S
